US04654343
N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]butanamide
To a solution of 6 g of 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine and 5.1 ml diisopropylethylamine in 500 ml dichloromethane was added 3.1 ml of butyryl chloride. This solution was stirred for 12 hours then poured onto 200 ml of water and extracted with 150 ml portions of dichloromethane. The combined extracts were dried, concentrated in vacuo and the solid chromatographed on 500 g silica gel with dichloromethane-methanol (95:5). The fractions containing the desired product were combined, concentrated in vacuo and the solid recrystallized from dichloromethane-hexane to give 5.58 g of white crystals, mp 195°-198° C.

reactant | 3-methyl-6-[3-(amino)phenyl]-1,2,4-triazolo[4,3-b]pyridazine | 6 g | CC1=NN=C2N1N=C(C=C2)C2=CC(=CC=C2)N | C12H11N5
reactant | diisopropylethylamine | 5.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | butyryl chloride | 3.1 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | N-[3-(3-Methyl-1,2,4-triazolo[4,3-b]-pyridazin-6-yl)phenyl]butanamide | 5.58 g | CC1=NN=C2N1N=C(C=C2)C=2C=C(C=CC2)NC(CCC)=O | C16H17N5O
